US04576954
The procedure followed is analogous to that described in Example 1, but 4,5-dichloro-1,2-dithiol-3-one (3.16 g) and 2,3,4,5-tetrahydro-1H-benz[d]azepine (2.5 g) are used as starting substances, and, after recrystallization from acetonitrile, 4-chloro-5-(2,3,4,5-tetrahydro-1H-benz[d]azepin-3-yl)-1,2-dithiol-3-one (2.3 g) is obtained in the form of an ochre powder of m.p. 141° C.

reactant | 4,5-dichloro-1,2-dithiol-3-one | 3.16 g | ClC=1C(SSC1Cl)=O | C3Cl2OS2
reactant | 2,3,4,5-tetrahydro-1H-benz[d]azepine | 2.5 g | C1CNCCC2=C1C=CC=C2 | C10H13N
product | 4-chloro-5-(2,3,4,5-tetrahydro-1H-benz[d]azepin-3-yl)-1,2-dithiol-3-one | 2.3 g | ClC=1C(SSC1N1CCC2=C(CC1)C=CC=C2)=O | C13H12ClNOS2
